US05610144
H--2-Trimethylsilylethyl 3-nitrobenzoate may be prepared as follows: a solution of 41.8 g of 2- trimethylsilylethanol in 200 cm3 of 1,2-dichloroethane and 51 cm3 of triethylamine is added to a solution of 66.0 g of 3-nitrobenzoyl chloride in 1000 cm3 of 1,2-dichloroethane cooled to 5° C. The reaction mixture is stirred for 12 hours at a temperature in the vicinity of 25° C., then the insoluble product is separated by filtration and washed with 2 times 50 cm3 of 1,2-dichloroethane. The filtrate is concentrated to dryness under reduced pressure at 40° C. The oily residue obtained is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (30/70 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 76.9 g of 2-trimethylsilylethyl 3-nitrobenzoate are thus obtained in the form of an oil used as it is in subsequent syntheses.

reactant | 2- trimethylsilylethanol | 41.8 g | C[Si](CCO)(C)C | C5H14OSi
reactant | 3-nitrobenzoyl chloride | 66.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | 1,2-dichloroethane | 200 cm3 | ClCCCl | C2H4Cl2
solvent | triethylamine | 51 cm3 | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 1000 cm3 | ClCCCl | C2H4Cl2
product | 2-trimethylsilylethyl 3-nitrobenzoate | 76.9 g | [N+](=O)([O-])C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C12H17NO4Si
